US07288544B2
2) Synthesis of 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-benzyl ester 5-(2-cyanoethyl) ester:
500 mg (1.90 mmol) of 4-(2-chloroethoxy) acetoacetic acid benzyl ester, 260 mg (1.90 mmol) of 3-chlorobenzaldehyde, acetic acid and piperidine were heated and stirred at room temperature for 24 hours in 3 ml of 2-propanol. 280 mg (1.90 mmol) of 3-aminocrotonate 2-cyanoethyl ester was added and further heated and stirred at 50° C. for 48 hours. 2-propanol was evaporated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | 4-(2-chloroethoxy) acetoacetic acid benzyl ester | 1.90 mmol, 500 mg | C(C1=CC=CC=C1)OC(CC(=O)COCCCl)=O | C13H15ClO4
reactant | 3-chlorobenzaldehyde | 1.90 mmol, 260 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3-aminocrotonate 2-cyanoethyl ester | 1.90 mmol, 280 mg | C(#N)CCOC(\C=C(\C)/N)=O | C7H10N2O2
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-benzyl ester 5-(2-cyanoethyl) ester | C(#N)CCOC(=O)C=1C(C(=C(NC1C)COCCCl)C(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)Cl | C27H26Cl2N2O5
